US04454148
A mixture of 2-amino-4-methoxybenzenethiol (7.0 g, 0.045 mole), sodium hydroxide (4.4 g, 0.11 mole) and carbon disulfide (8.06 g, 0.11 mole) in 90% aqueous ethanol (100 ml.) was heated at reflux for 2 hours, filtered, diluted with ice-water and acidified with hydrochloric acid to give 7.0 g of 5-methoxy-2-benzothiazolethiol which melts at 192°-4° C. after recrystallization from benzene.

reactant | 2-amino-4-methoxybenzenethiol | 0.045 mole, 7.0 g | NC1=C(C=CC(=C1)OC)S | C7H9NOS
reactant | sodium hydroxide | 0.11 mole, 4.4 g | [OH-].[Na+]
reactant | carbon disulfide | 0.11 mole, 8.06 g | C(=S)=S | CS2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-methoxy-2-benzothiazolethiol | 7.0 g | COC=1C=CC2=C(N=C(S2)S)C1 | C8H7NOS2
